US04804400
11.4 g of N-(2-fluoro-5-carboxy-4-aminophenyl)-2,3-dimethylmaleic acid imide are introduced in portions, at a temperature of 25°-30°, into 60 ml of glacial acetic acid and 60 ml of 96% sulphuric acid and the whole is stirred at that temperature for 1 hour. The solution is then stirred at 5° and an aqueous solution of 2.9 g of sodium nitrite in 17 ml of water is added dropwise thereto. The resulting diazo solution is added in portions, while stirring vigorously at 30°, to a solution of 4.5 g of copper(I) chloride in 32 ml of concentrated hydrochloric acid. When the evolution of nitrogen has ceased, the reaction mixture is heated at 60° for a further 30 minutes, while stirring, and then poured onto ice. The product which precipitates is filtered with suction, washed with water and recrystallised from methanol/water. 9.8 g of N-(2-fluoro-5-carboxy-4-chlorophenyl)-2,3-dimethylmaleic acid imide having a melting point of 230°-231° are obtained.

reactant | N-(2-fluoro-5-carboxy-4-aminophenyl)-2,3-dimethylmaleic acid imide | 11.4 g | FC1=C(C=C(C(=C1)N)C(=O)O)N1C(C(=C(C1=O)C)C)=O | C13H11FN2O4
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
reactant | sulphuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 2.9 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 32 ml | Cl | ClH
solvent | water | 17 ml | O | H2O
catalyst | copper(I) chloride | 4.5 g | [Cu]Cl
product | N-(2-fluoro-5-carboxy-4-chlorophenyl)-2,3-dimethylmaleic acid imide | 9.8 g | FC1=C(C=C(C(=C1)Cl)C(=O)O)N1C(C(=C(C1=O)C)C)=O | C13H9ClFNO4
